US09302989B2
N-{4-[4-(isopropylsulfonyl)piperazin-1-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 283, substituting isopropylsulfonyl chloride for methanesulfonyl chloride and N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.16 (s, 1H), 7.39-7.45 (m, 2H), 7.27-7.38 (m, 4H), 6.88-6.92 (m, 2H), 4.74 (s, 4H), 3.07-3.12 (m, 4H), 1.25 (d, J=6.8 Hz, 6H); MS (ESI(+)) m/e 429 (M+H)+.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C19H22N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-{4-[4-(isopropylsulfonyl)piperazin-1-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C(C)(C)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C22H28N4O3S
